US09169209B2
In a 50 ml of flask were added (4-(2-(trifluoromethoxy)phenylsulfonyl)phenyl)methanamine (100 mg, 0.302 mmol), 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) (138 mg, 0.362 mmol DIEA (117 mg, 0.905 mmol), (E)-3-(pyridin-3-yl)acrylic acid (49.5 mg, 0.332 mmol) DMF (5 ml). The mixture was stirred at RT for 16 hours. The mixture was diluted with water and back extracted with ethyl acetate (3×20 mL). The organic layers were combined and washed with water (3×20 mL). The organic was separated, dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give the crude product The crude product was purified by Biotage to afford E)-3-(pyridin-3-yl)-N-(4-(2-(trifluoromethoxy)phenylsulfonyl)benzyl)acrylamide, 85 mg (61%). 1HNMR (DMSO-D6): δ 8.70 (t, 1H), 8.75 (d, 1H), 8.54 (dd, 1H), 8.21 (dd, 2H), 7.98 (dd, 1H), 7.83 (m, 2H), 7.66 (dt, 1H), 7.53 (m, 2H), 7.44 (m, 1H), 6.75 (d, 1H), 4.49 (d, 1H)

reactant | (4-(2-(trifluoromethoxy)phenylsulfonyl)phenyl)methanamine | 0.302 mmol, 100 mg | FC(OC1=C(C=CC=C1)S(=O)(=O)C1=CC=C(C=C1)CN)(F)F | C14H12F3NO3S
reactant | 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.362 mmol, 138 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | (E)-3-(pyridin-3-yl)acrylic acid | 0.332 mmol, 5 ml, 49.5 mg | N1=CC(=CC=C1)/C=C/C(=O)O | C8H7NO2
solvent | water | O | H2O
product | 3-(pyridin-3-yl)-N-(4-(2-(trifluoromethoxy)phenylsulfonyl)benzyl)acrylamide | N1=CC(=CC=C1)C=CC(=O)NCC1=CC=C(C=C1)S(=O)(=O)C1=C(C=CC=C1)OC(F)(F)F | C22H17F3N2O4S
